US08242153B2
In analogy to example 1d (S)-2-amino-4-(4-chloro-phenoxy)-butan-1-ol was reacted with cyanogen bromide to give (S)-4-[2-(4-chloro-phenoxy)-ethyl]-4,5-dihydro-oxazol-2-ylamine. White solid. MS (ISP): 240.9 ([M+H]+))

reactant | (S)-2-amino-4-(4-chloro-phenoxy)-butan-1-ol | N[C@H](CO)CCOC1=CC=C(C=C1)Cl | C10H14ClNO2
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-[2-(4-chloro-phenoxy)-ethyl]-4,5-dihydro-oxazol-2-ylamine | ClC1=CC=C(OCC[C@@H]2N=C(OC2)N)C=C1 | C11H13ClN2O2
